US06413938B1
2-Bromo-6-chloro-1-(2,3-di-O-acetyl-5-deoxy-β-D-ribofuranosyl)-1H-benzimidazole
To a refluxing solution of 0.76 g (2.2 mmol) of 6-chloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole in 30 mL of THF was added 0.77 g (4.3 mmol) of N-bromosuccinimide. The resultant mixture was further refluxed for 15 min. The reaction mixture was then poured into an ice-cooled mixture of 20 mL sat. NaHCO3 solution and 20 mL CHCl3. The CHCl3 layer was separated and was further washed with sat. NaHCO3. After drying (MgSO4) and solvent removal, a crude product was obtained which was purified by flash column chromatography on silica with EtOAc/hexane (2:3) as the eluent. This gave 0.73 g (79%) of the title compound as an oil. 1H NMR (DMSO-d6) δ1.42 (d, 3H, CH3), 2 (s, 3H, COCH3), 2.1 (s, 3H, COCH3), 4.2 (quintet, 1H, CH), 5.2 (t, 1H, CH), 5.6 (t, 1H, CH), 6.1 (d, 1H, CH), 7.3 (d, 1H, aromatic), 7.6 (d, 1H, aromatic), 7.82 (s, 1H, aromatic).

reactant | 6-chloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 2.2 mmol, 0.76 g | ClC=1C=CC2=C(N(C=N2)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)C1 | C16H17ClN2O5
reactant | N-bromosuccinimide | 4.3 mmol, 0.77 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-Bromo-6-chloro-1-(2,3-di-O-acetyl-5-deoxy-β-D-ribofuranosyl)-1H-benzimidazole | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C)C=C(C=C2)Cl | C16H16BrClN2O5
